US08440660B2
6-[4-[N-(2-dimethylaminoethyl)-N-methylaminocarbonyloxy]-2-methoxyphenyl]-5-(5-fluoro-2-methylphenoxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 6-2)
A mixture of 5-(5-fluoro-2-methylphenoxymethyl)-6-(4-hydroxy-2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-1, 26.0 mg, 0.0600 mmol), 1,1′-carbonyldiimidazole (31.4 mg, 0.194 mmol) and 4-dimethylaminopyridine (1.1 mg, 0.0090 mmol) was dissolved in anhydrous tetrahydrofuran (0.6 mL), and then the mixture was stirred at room temperature for 1 hour. N,N,N′-trimethylethylenediamine (15 μL, 0.12 mmol) was added thereto, the mixture was stirred at room temperature for 1 hour, and then the mixture was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (10.0 mg) as a colorless amorphous product. (Yield 30%)

reactant | 5-(5-fluoro-2-methylphenoxymethyl)-6-(4-hydroxy-2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 0.0600 mmol, 26.0 mg | FC=1C=CC(=C(OCC2=C3C(=CC(NC3=CC=C2C2=C(C=C(C=C2)O)OC)(C)C)C)C1)C | C27H28FNO3
reactant | 1,1′-carbonyldiimidazole | 0.194 mmol, 31.4 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N,N′-trimethylethylenediamine | 0.12 mmol, 15 μL | CN(CCNC)C | C5H14N2
catalyst | 4-dimethylaminopyridine | 0.0090 mmol, 1.1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 0.6 mL | O1CCCC1 | C4H8O
product | 6-[4-[N-(2-dimethylaminoethyl)-N-methylaminocarbonyloxy]-2-methoxyphenyl]-5-(5-fluoro-2-methylphenoxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 10.0 mg, Yield 30% | CN(CCN(C)C(=O)OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC1=C(C=CC(=C1)F)C)OC)C | C33H40FN3O4
